US04347358
1.2 g of t-butyl 2-bromo-3-bromomethyl-7-phenoxyacetamido-3-cephem-4-carboxylate-1-oxide were stirred in 8 ml of trifluoroacetic acid over 15 minutes and after evaporation to dryness under vacuo, 20 ml of 1,2-dichloroethane were added to the residue. The evaporation to dryness was repeated and 5 ml of ether and 50 ml of heptane were added to the residue. The obtained product was vacuum filtered and dried under vacuo to obtain 1.1 g of 2-bromo-3-bromomethyl-7-phenoxyacetamido-3-cephem-4-carboxylic acid-1-oxide as almost colorless crystals.

reactant | t-butyl 2-bromo-3-bromomethyl-7-phenoxyacetamido-3-cephem-4-carboxylate-1-oxide | 1.2 g | BrC1S([C@H]2N(C(=C1CBr)C(=O)OC(C)(C)C)C(C2NC(COC2=CC=CC=C2)=O)=O)=O | C20H22Br2N2O6S
solvent | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-bromo-3-bromomethyl-7-phenoxyacetamido-3-cephem-4-carboxylic acid-1-oxide | 1.1 g | BrC1S([C@H]2N(C(=C1CBr)C(=O)O)C(C2NC(COC2=CC=CC=C2)=O)=O)=O | C16H14Br2N2O6S
